US05359098
5-[3-(4-hydroxypiperidinyl)propoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by the method of Example 21 from 5-hydroxyflavone, 1-bromo-3-chloropropane, and 4-hydroxypiperidine: mp 213°-215° C.

reactant | 5-hydroxyflavone | OC1=C2C(C=C(OC2=CC=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5-[3-(4-hydroxypiperidinyl)propoxy]-2-phenyl-4H-1-benzopyran-4-one hydrochloride | Cl.OC1CCN(CC1)CCCOC1=CC=CC2=C1C(C=C(O2)C2=CC=CC=C2)=O | InChI=1S/C23H25NO4.ClH/c25-18-10-13-24(14-11-18)12-5-15-27-20-8-4-9-21-23(20)19(26)16-22(28-21)17-6-2-1-3-7-17;/h1-4,6-9,16,18,25H,5,10-15H2;1H
